US05216015
Step 1: Preparation of E-3-tributylstannyl-2-propen-1-ol
To a mixture of propargyl alcohol (2.24 g) and α,α'-azoisobutyronitrile (0.10 g) in anhydrous toluene (150 ml) is added tributyltin hydride (12.9 ml) and the mixture heated at reflux for about 2.5 hours, cooled and concentrated in vacuo. The crude product is purified by flash chromatography in 15% ether in hexane to give the desired product.

reactant | propargyl alcohol | 2.24 g | C(C#C)O | C3H4O
reactant | tributyltin hydride | 12.9 ml | C(CCC)[SnH](CCCC)CCCC
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | E-3-tributylstannyl-2-propen-1-ol | C(CCC)[Sn](/C=C/CO)(CCCC)CCCC | InChI=1S/3C4H9.C3H5O.Sn/c3*1-3-4-2;1-2-3-4;/h3*1,3-4H2,2H3;1-2,4H,3H2;
